US07199239B2
Intermediate 22: N-(2-Cyclopropylethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine
To a solution of oxalyl chloride (0.17 mL, 1.95 mmol) in anhydrous CH2Cl2 (5 mL) under nitrogen at −78° C. was added dropwise a solution of anhydrous DMSO (0.18 mL, 2.6 mmol) in anhydrous CH2Cl2 (2.5 mL), ensuring the temperature remained below −60° C. To this was added a solution of 2-cyclopropyl ethanol (0.132 g, 1.3 mmol) in anhydrous CH2Cl2 (2.5 mL), again ensuring temperature remained below −60° C. The reaction mixture was stirred at −78° C. for 20 mins, then treated with triethylamine (0.543 mL, 3.9 mmol) in anhydrous CH2Cl2 (3 mL). The resultant mixture was allowed to gradually warm to room temperature and stirred for 16 h. The reaction mixture was diluted with CH2Cl2 (10 mL) and water (5 mL) prior to the addition of 2M HCl (0.5 mL). The mixture was stirred vigorously for 20 mins, then passed through a hydrophobic frit. The organic solution was stood over molecular sieves for 2 h, then decanted into a clean flask. To this solution was added 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine (0.31 g, 1.3 mmol), followed by sodium triacetoxyborohydride (0.386 g, 1.82 mmol) and acetic acid (74.3 μL, 1.3 mmol). The resultant mixture was stirred at room temperature under nitrogen for 20 h. The reaction mixture was quenched with sat. NaHCO3 aq. (15 mL) and extracted with CH2Cl2 (2×20 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by SPE (20 g Silica column) eluted with 1:200 EtOAc:cyclohexane afforded the title compound as a colourless oil (255 mg).

reactant | oxalyl chloride | 1.95 mmol, 0.17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.6 mmol, 0.18 mL | CS(=O)C | C2H6OS
reactant | 2-cyclopropyl ethanol | 1.3 mmol, 0.132 g | C1(CC1)CCO | C5H10O
reactant | triethylamine | 3.9 mmol, 0.543 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 2M, 0.5 mL | Cl | ClH
reactant | 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine | 1.3 mmol, 0.31 g | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)N)(F)F | C13H10F3N
reactant | sodium triacetoxyborohydride | 1.82 mmol, 0.386 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.3 mmol, 74.3 μL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | N-(2-Cyclopropylethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 255 mg | C1(CC1)CCNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C18H18F3N
